US07868188B2
N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]-2,4-dimethyl-1,3-thiazole-5-sulfonamide
Using an analogous procedure to that described in Example 61, N-{5-[6-chloro-5-(2,4-dimethyl-1,3-thiazol-5-ylsulfonamido)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide was hydrolysed with aqueous hydrochloric acid solution to give the title compound; 1H NMR Spectrum: (DMSOd6) 2.18 (s, 3H), 2.35 (s, 3H), 2.61 (s, 3H), 7.30 (s, 2H), 7.64 (d, 11H), 8.22 (s, 1H), 10.80 (br s, 1H); Mass Spectrum: M+H+ 416.

reactant | N-{5-[6-chloro-5-(2,4-dimethyl-1,3-thiazol-5-ylsulfonamido)pyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide | ClC1=C(C=C(C=N1)C1=C(N=C(S1)NC(C)=O)C)NS(=O)(=O)C1=C(N=C(S1)C)C | C16H16ClN5O3S3
reactant | hydrochloric acid | Cl | ClH
product | N-[5-(2-Amino-4-methyl-1,3-thiazol-5-yl)-2-chloropyridin-3-yl]-2,4-dimethyl-1,3-thiazole-5-sulfonamide | NC=1SC(=C(N1)C)C=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=C(N=C(S1)C)C | C14H14ClN5O2S3
